US08802713B2
Then, 1.5 g of 5-acetylamino-1-(2-fluoro-4-methyl-5-mercaptophenyl)-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole was dissolved in 20 mL of dimethylformamide, and 0.32 g of sodium carbonate and 1.5 g of 2-chloro-2,2-difluoroethyl nonafluorobutanesulfonate were added, followed by stirring at room temperature for 12hours. Then, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, the obtained residue was purified by silica gel column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 1.3 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 5-acetylamino-1-(2-fluoro-4-methyl-5-mercaptophenyl)-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 1.5 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)S)C)F)OCC(C(F)(F)F)(F)F | C15H13F6N3O2S
reactant | sodium carbonate | 0.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-2,2-difluoroethyl nonafluorobutanesulfonate | 1.5 g | FC(C(C(C(S(=O)(=O)OCC(F)(F)Cl)(F)F)(F)F)(F)F)(F)F | C6H2ClF11O3S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2-chloro-2,2-difluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 1.3 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)Cl)C)F)OCC(C(F)(F)F)(F)F | C17H14ClF8N3O2S
